US06723745B2
4-(4-Fluorophenyloxy)but-1-yne
4-Fluorophenol (5.00 g, 44.6 mmol), 3-butyn-1-ol (3.38 ml, 44.6 mmol), and triphenylphosphine (17.5 g, 66.9 mmol) were dissolved in tetrahydrofuran (100 ml), and diethyl azodicarboxylate (11.7 g, 66.9 mmol) was added thereto in an ice bath followed by stirring for 18 hours at room temperature. After the solvent was concentrated in vacuo, hexane (200 ml) and ethyl acetate (20 ml) were added thereto, and the resulting precipitate was filtered out, and then the filtrate was concentrated in vacuo. The obtained residue was purified by flash chromatography on a silica gel column (elution solvent; hexane:ethyl acetate=1:0) to afford the title compound.

reactant | 4-Fluorophenol | 44.6 mmol, 5.00 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 3-butyn-1-ol | 44.6 mmol, 3.38 ml | C(CC#C)O | C4H6O
reactant | triphenylphosphine | 66.9 mmol, 17.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 66.9 mmol, 11.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluorophenyloxy)but-1-yne | FC1=CC=C(C=C1)OCCC#C | C10H9FO
